Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]#[C:4][C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],2.34080106473
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.06792921136
[C:3](\[H:4])(=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.9006184589700004
[H:1][C:2]([H:3])[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],1.6791182468
[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:6]#[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[H:5],2.5343345964
[C:1]#[C:2][O:4][C:5]#[C:6].[H:3]>>[C:1]=[C:2]([H:3])[O:4][C:5]#[C:6],-3.92002229739
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])=[C:9]([H:7])[H:10].[C:5]([H:6])#[C:8],4.51691698316
[H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9][H:10],-3.77314814572
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],3.41246206819
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],2.08200545576
[C:1].[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-5.60720236868
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],7.04035605037
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11].[H:1][C:2]#[C:3][H:4],0.7803564015000001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.90670118602
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1],7.690707163150001
[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([O:8][H:9])[O:10][H:11].[H:7]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11],-1.83148778453
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[H:7],1.97664437811
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:1].[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],5.82150661403
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.88332049239
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:9]([H:10])[H:11].[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-3.79002303966
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.6632395863300005
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10]>>[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10],2.55567625776
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.82676609245
[C:8]([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-2.10868715306
[C:6][H:7].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:8][H:9]>>[O:1]=[C:2]([C:3][C:4]([H:5])=[C:6][H:7])[O:8][H:9],-3.29745715559
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:6]([O:5][C:3][H:4])[C:7]([H:8])([H:9])[H:10],0.5074995046
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],6.554469438019999
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.81999077136
[C:3]([C:4][H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([C:4][H:5])[C:6][C:7]([H:8])([H:9])[H:10],1.1847718619299998
